US06025370
In the same manner as in Example 1, 0.45 g of ethyl 7-bromo-8-chloro-1-cyclopropyl-1,4-dihydro-4-oxoquinoline-3-carboxylate was reacted with 1.02 g of 2-(p-toluenesulfonyl)-5-tributylstannylisoindoline to obtain 0.54 g of ethyl 8-chloro-1-cyclopropyl-7-[2-(p-toluenesulfonyl)isoindolin-5-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylate.

reactant | ethyl 7-bromo-8-chloro-1-cyclopropyl-1,4-dihydro-4-oxoquinoline-3-carboxylate | 0.45 g | BrC1=CC=C2C(C(=CN(C2=C1Cl)C1CC1)C(=O)OCC)=O | C15H13BrClNO3
reactant | 2-(p-toluenesulfonyl)-5-tributylstannylisoindoline | 1.02 g | C1(=CC=C(C=C1)S(=O)(=O)N1CC2=CC=C(C=C2C1)[Sn](CCCC)(CCCC)CCCC)C
product | ethyl 8-chloro-1-cyclopropyl-7-[2-(p-toluenesulfonyl)isoindolin-5-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylate | 0.54 g | ClC=1C(=CC=C2C(C(=CN(C12)C1CC1)C(=O)OCC)=O)C=1C=C2CN(CC2=CC1)S(=O)(=O)C1=CC=C(C=C1)C | C30H27ClN2O5S
